US06265575B1
Part D. 3-[4-[2-(1-Piperidinyl)ethoxy]benzoyl]-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene-6-carboxylic Acid Methyl Ester
To a solution of 1.5 g (2.9 mmol) of 2-(4-hydroxyphenyl)-3-[4-[2-(1-piperidinyl)ethoxy]benzoyl]benzo[b]thiophene-6-carboxylic acid methyl ester (Part C) and 544 mg (3.2 mmol) of 1-(2-chloroethyl)pyrrolidine hydrochloride in 20 mL of anhydrous DMF was added 2.37 g (7.3 mmol) of cesium carbonate at room temperature under a nitrogen atmosphere. The reaction mixture was heated at 60° C. for 4 h and then cooled to room temperature and diluted with 125 mL of THF and 75 mL of water. The aqueous layer was saturated with sodium chloride and extracted twice with 50 mL portions of THF. The combined organic layers were washed with brine, dried with anhydrous sodium sulfate, and concentrated at reduced pressure. The residue was purified on silica gel (1:1 MeOH/TEA (10%) in THF) to give 1.26 g (2.2 mmol, 77%) of an orange-brown foam.

reactant | 2-(4-hydroxyphenyl)-3-[4-[2-(1-piperidinyl)ethoxy]benzoyl]benzo[b]thiophene-6-carboxylic acid methyl ester | 2.9 mmol, 1.5 g | COC(=O)C=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)O)C1 | C30H29NO5S
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 3.2 mmol, 544 mg | Cl.ClCCN1CCCC1
reactant | cesium carbonate | 7.3 mmol, 2.37 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | THF | 125 mL | C1CCOC1 | C4H8O
solvent | water | 75 mL | O | H2O
product | 3-[4-[2-(1-Piperidinyl)ethoxy]benzoyl]-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene-6-carboxylic Acid Methyl Ester | 2.2 mmol, 1.26 g, 77% | COC(=O)C=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)OCCN2CCCC2)C1 | C36H40N2O5S
